US08895535B2
LiOH/H2O (750 mg) is added to a solution of ethyl (S)-3-hydroxy-2-oxo-1-phenylpyrrolidine-3-carboxylate (1.5 g) in THF/H2O=3:1, and the mixture is stirred for 4 h. The solvent is then removed in vacuo, and the batch is acidified using 1.5N HCl. The aqueous phase is extracted with ethyl acetate, and the combined organic phases are dried over sodium sulfate, giving (S)-3-hydroxy-2-oxo-1-phenylpyrrolidine-3-carboxylic acid;

reactant | LiOH H2O | 750 mg | [Li+].[OH-].O
reactant | ethyl (S)-3-hydroxy-2-oxo-1-phenylpyrrolidine-3-carboxylate | 1.5 g | O[C@@]1(C(N(CC1)C1=CC=CC=C1)=O)C(=O)OCC | C13H15NO4
solvent | THF H2O | C1CCOC1.O
product | (S)-3-hydroxy-2-oxo-1-phenylpyrrolidine-3-carboxylic acid | O[C@@]1(C(N(CC1)C1=CC=CC=C1)=O)C(=O)O | C11H11NO4
